US04268509
Preparation of 7-[2-Methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer)
A mixture of 2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer) (100 mg) and phosphorus oxychloride (306 mg) in methylene chloride (5 ml) was stirred for 30 minutes at ambient temperature. To the mixture was added N,N-dimethylformamide (0.2 ml) under cooling in an ice-bath, followed by stirring for 30 minutes. A mixture of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (300 mg) and trimethylsilylacetamide (0.9 g) in methylene chloride (9 ml) was warmed to make a clear solution. The solution was cooled in an ice-bath and added to the above obtained solution, followed by stirring for 30 minutes at 0° C. The reaction mixture was poured into a cold aqueous solution of sodium bicarbonate. The aqueous layer was separated, adjusted to pH 1 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with diethyl ether to give a crude product of the title compound (120 mg). The crude material was dissolved in an aqueous solution of sodium bicarbonate and reprecipitated with diluted hydrochloric acid to give the pure title compound (60 mg), mp. 170° to 175° C. (dec.).

reactant | 2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid | 100 mg | CON=C(C(=O)O)C1=NSC(=N1)N | C5H6N4O3S
reactant | phosphorus oxychloride | 306 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 300 mg | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 0.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 7-[2-Methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 120 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)C1=NSC(=N1)N | C15H16N10O5S3
